US05962479
To a solution of [3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4yl]-ethyl-amine (7.00 g, 24.6 mmol) in 100 ml of dry THF was added 1.0 M lithium bis(trimethylsilyl)amide in hexane (32 ml, 32 mmol) at -78° C. After stirring at that temperature for 10 min, the reaction mixture was treated with iodopropane (13 ml, 125 mmol) at -70° C. After stirring at that temperature for 20 min, the dry ice bath was removed and the reaction mixture was stirred at room temperature for 3 hours. The reaction mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give an oil. The oil residue was purified through silica gel column chromatography using 1:1 chloroform:hexane to chloroform as eluent to give 5.04 g (62.5%) of [3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-ethyl-propyl-amine as yellow solid; 1H NMR (CDCl3) δ6.88 (s, 2H), 6.41 (s, 1H), 3.11(q,2H), 3.03(dd,2H), 2.30 (s, 3H), 2.25 (s, 3H), 2.19 (s, 3H), 2.07 (s, 6H), 1.55 (m, 2H), 1.08 (t, 3H), 0.90 (t, 3H) ppm. The corresponding HCl salt, white crystals; mp 167-169° C.; 1H NMR (MeOH-d4) δ7.00 (s, 2H), 6.75 (s, 1H), 3.54(q,2H), 3.43 (t, 2H), 2.35 (s, 3H), 2.31 (s, 3H), 2.27 (s, 3H), 2.08 (s, 6H), 1.69 (m, 2H), 1.25 (t, 3H0, 0.94 (t, 3H) ppm;

reactant | [3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4yl]-ethyl-amine | 24.6 mmol, 7.00 g | CC=1C(=NC(=CC1NCC)C)OC1=C(C=C(C=C1C)C)C | C18H24N2O
reactant | lithium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hexane | 32 mmol, 32 ml | CCCCCC | C6H14
reactant | iodopropane | 125 mmol, 13 ml | ICCC | C3H7I
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | [3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-ethyl-propyl-amine | 5.04 g, 62.5% | CC=1C(=NC(=CC1N(CCC)CC)C)OC1=C(C=C(C=C1C)C)C | C21H30N2O
